US09353104B2
Step A: ethyl 2,4-dioxohexanoate (2)
To a solution of sodium ethoxide (2.33 g, 34 mmol) in absolute alcohol (40 mL) was added a mixture of 2-butanone (2.45 g, 34 mmol) and diethyl oxalate (5 g, 34 mmol) dropwise at −5° C. The reaction mixture was stirred at −5° C. overnight and then concentrated. The resulting residue was partitioned between water (20 mL) and ethyl acetate (70 mL*3). The aqueous layer was acidified to pH 2 with dilute H2SO4 and then extracted with ethyl acetate (50 ml*3). The combined organic phase was dried over anhydrous Na2SO4, The organic solvent was evaporated in vacuo, and the residue was used directly in the next step without further purification.

reactant | sodium ethoxide | 34 mmol, 2.33 g | [O-]CC.[Na+]
reactant | 2-butanone | 34 mmol, 2.45 g | CC(CC)=O | C4H8O
reactant | diethyl oxalate | 34 mmol, 5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
product | ethyl 2,4-dioxohexanoate | O=C(C(=O)OCC)CC(CC)=O | C8H12O4
